US07592334B2
(c) (±)-6-[({(2S,3R)-8-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-3-hydroxy-8-azaspiro[4.5]dec-2-yl}amino)methyl]-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one
To a solution of (2R,3S)-3-amino-8-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-8-azaspiro[4.5]decan-2-ol (0.26 mg, 75.1 μmol) in DCM-EtOH (1 mL, 1:1) were added Na2SO4 (16 mg, 0.112 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde (15 mg, 75.1 μmol). After 12 h at 25° C., the imine was quenched by addition of NaBH(OAc)3 (32 mg, 0.150 mmol) in one portion. After an additional 1 h, the solution was partitioned between NaHCO3-DCM. The aqueous phase was washed several times with DCM and the combined organic fractions were dried (Na2SO4), concentrated and purified by column chromatography (silica, 1% MeOH in DCM (1% NH4OH)) affording the title compound (33 mg, 84%) as a light yellow oil: LCMS (ES) m/e 525 (M+H)+; 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=5.5 Hz, 1H), 8.11 (d, J=9.0 Hz, 1H), 7.59 (d, J=7.8 Hz, 1H), 7.01 (d, J=9.0 Hz, 1H), 6.95 (d, J=7.8 Hz, 1H), 4.12-4.19 (m, 1H), 4.03 (s, 3H), 3.92 (AB quart., 2H), 3.52-3.67 (m, 4H), 3.46 (s, 2H), 3.00-3.21 (m, 1H), 1.94-1.96 (m, 1H), 1.79-1.91 (m, 1H), 1.65-1.71 (m, 4H).

reactant | (2R,3S)-3-amino-8-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-8-azaspiro[4.5]decan-2-ol | 75.1 μmol, 0.26 mg | N[C@@H]1[C@@H](CC2(C1)CCN(CC2)C2=C(C=NC1=CC=C(N=C21)OC)F)O | C18H23FN4O2
reactant | Na2SO4 | 0.112 mmol, 16 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde | 75.1 μmol, 15 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | NaBH(OAc)3 | 0.150 mmol, 32 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM EtOH | 1 mL | C(Cl)Cl.CCO
product | (±)-6-[({(2S,3R)-8-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-3-hydroxy-8-azaspiro[4.5]dec-2-yl}amino)methyl]-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one | 33 mg, 84% | FC=1C=NC2=CC=C(N=C2C1N1CCC2(C[C@H]([C@H](C2)NCC=2C=CC=3SCC(NC3N2)=O)O)CC1)OC | C26H29FN6O3S
